US08492395B2
To a stirred mixture of 2-amino-5-nitrobenzoic acid (5.0 g, 28 mmol) and imidazole (2.2 g, 33 mmol) in acetonitrile (50 mL), was added acetyl chloride (2.3 mL, 33 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (4.5 g, 28 mmol), imidazole (4.1 g, 60 mmol) and triphenyl phosphite (8.7 mL, 33 mmol) and heated to reflux for 22 hours. To the mixture, was added water (60 mL). The suspension was filtered and washed with water (2×50 mL), ethyl acetate (2×50 mL), and water (50 mL) to give 3-(2-methyl-6-nitro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as an off-white solid (5.3 g, 61% yield): 1H NMR (DMSO-d6) δ 2.19-2.26 (m, 1H, CHH), 2.60-2.69 (m, 2H, 2CHH), 2.72 (s, 3H, CH3), 2.79-2.87 (m, 1H, CHH), 5.37 (dd, J=5, 11 Hz, 1H, NCH), 7.83 (d, J=9 Hz, 1H, Ar), 8.56 (dd, J=3, 9 Hz, 1H, Ar), 8.74 (dt, J=3 Hz 1H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.69, 23.82, 30.57, 56.98, 119.46, 120.20, 122.21, 128.45, 128.74, 144.90, 150.85, 159.13, 159.78, 169.12, 172.53.

reactant | 2-amino-5-nitrobenzoic acid | 28 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | imidazole | 33 mmol, 2.2 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 33 mmol, 2.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 28 mmol, 4.5 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 60 mmol, 4.1 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 33 mmol, 8.7 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 60 mL | O | H2O
product | 3-(2-methyl-6-nitro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 5.3 g, 61% yield | CC1=NC2=CC=C(C=C2C(N1C1C(NC(CC1)=O)=O)=O)[N+](=O)[O-] | C14H12N4O5
